US05256673
HCl is passed into a boiling solution of 4.04 g of 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-butyl]-indole-5-carboxylic acid in 50 ml of absolute ethanol for 2 hours. The mixture is boiled for a further hour and worked up in the customary manner to give ethyl 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-butyl]-indole-5-carboxylate. Rf 0.65 (silica gel; 8:2 CH2Cl2 /CH3OH).

reactant | HCl | Cl | ClH
reactant | 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-butyl]-indole-5-carboxylic acid | 4.04 g | C1(=CC=CC=C1)C=1CCN(CC1)CCCCC1=CNC2=CC=C(C=C12)C(=O)O | C24H26N2O2
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-butyl]-indole-5-carboxylate | C1(=CC=CC=C1)C=1CCN(CC1)CCCCC1=CNC2=CC=C(C=C12)C(=O)OCC | C26H30N2O2
